US07351571B2
Acetic acid (110 ml) was mixed with 20.4 g of ammonium acetate (264 mmol) and heated to 85° C. After ammonium acetate was dissolved, the mixture was further mixed with 20.0 g of p-nitro-benzaldehyde (132 mmol) and 27.8 g of malonic acid (264 mmol) and heated at 90° C. with stirring for 5 hours. After being cooled to room temperature, the filtrate was mixed with 300 ml of 2-propanol. The precipitated crystal was filtered, subjected to slurry washing with 100 ml of ethanol, filtered again and dried under reduced pressure to give 14.4 g of p-nitro-β-phenylalanine at a yield of 52.0%.

reactant | Acetic acid | 110 ml | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 264 mmol, 20.4 g | C(C)(=O)[O-].[NH4+]
reactant | p-nitro-benzaldehyde | 132 mmol, 20.0 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | malonic acid | 264 mmol, 27.8 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | 2-propanol | 300 ml | CC(C)O | C3H8O
product | p-nitro-β-phenylalanine | 14.4 g, yield of 52.0% | [N+](=O)([O-])C1=CC=C([C@H](N)CC(=O)O)C=C1 | C9H10N2O4
